US07902400B2
To a mixture of 5 ml of ethyl acetate and 0.30 g of 3-fluoro-5-methoxy-4-(2-propynyloxy)benzoyl chloride were added 0.15 g of 2-methylcyclohexylamine and 0.40 g of triethylamine in order at room temperature. The mixture obtained was stirred at room temperature for 2 hours. Then, the reaction product was subjected to silica gel column chromatography to obtain 0.34 g of N-(2-methylcyclohexyl)-3-fluoro-5-methoxy-4-(2-propynyloxy)benzamide (hereinafter, described as the compound 48 of the present invention) represented by the formula:

reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-fluoro-5-methoxy-4-(2-propynyloxy)benzoyl chloride | 0.30 g | FC=1C=C(C(=O)Cl)C=C(C1OCC#C)OC | C11H8ClFO3
reactant | 2-methylcyclohexylamine | 0.15 g | CC1C(CCCC1)N | C7H15N
solvent | triethylamine | 0.40 g | C(C)N(CC)CC | C6H15N
product | N-(2-methylcyclohexyl)-3-fluoro-5-methoxy-4-(2-propynyloxy)benzamide | 0.34 g | CC1C(CCCC1)NC(C1=CC(=C(C(=C1)OC)OCC#C)F)=O | C18H22FNO3
